US05026856
The 2,3-bis-(bromomethyl)anisole prepared above and 1.5 g of benzyltriethylammonium chloride were dissolved in a mixture of 80 ml of aqueous 50% sodium hydroxide and 350 ml of toluene. To the solution was dropwise added 21.6 g of benzylamine over 15 minutes while stirring at room temperature. After stirring for one day for one day, the organic layer was separated and washed with brine. After concentration, the residue was purified by chromatography on silica gel (benzene/ethyl acetate=15/1) to give 15.2 g of 2-benzyl-4-methoxyisoindoline as an oily substance.

reactant | 2,3-bis-(bromomethyl)anisole | BrCC1=C(C=CC=C1CBr)OC | C9H10Br2O
reactant | benzylamine | 21.6 g | C(C1=CC=CC=C1)N | C7H9N
catalyst | benzyltriethylammonium chloride | 1.5 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | 2-benzyl-4-methoxyisoindoline | 15.2 g | C(C1=CC=CC=C1)N1CC2=CC=CC(=C2C1)OC | C16H17NO
